US06258833B1
Preparation of 1-Benzyl-4-(3-cyclopentyloxy-4-methoxyphenyl)-3-methylpyrrolidine-3-carboxaldehyde
A solution of oxalyl chloride (4.87 mL, 9.73 mmol) in dry CH2Cl2 (20 mL) was chilled to −78° C. under N2 and stirred while being treated with a solution of dimethyl sulfoxide (DMSO, 1.38 mL, 19.5 mmol) in CH2Cl2 (5 mL). Gas evolution was observed. When addition was complete, the solution was stirred for 5 minutes and a solution of [1-benzyl-4-(3-cyclopentyloxy-4-methyoxy-phenyl)-3-methylpyrrolidin-3-yl]-methanol (3.5 g, 8.85 mmol) in CH2Cl2 (10 mL) was added over a period of 10 minutes. The mixture was stirred for 30 minutes, treated with triethylamine (6.7 mL, 44.3 mmol), and allowed to warm to room temperature. Water was added to the mixture, the resulting layers separated, and the aqueous layer extracted with CH2Cl2 (2×50 mL). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated to give an oily product (3.2 g, 92% yield). 1H NMR (300 MGz, CDCl3) δ (ppm): 9.63 (s, 1H, CHO), 7.34-7.21 (m, 5H, aromatic), 6.78-6.68 (m, 3H, aromatic), 4.73 (br, m, 1H), 3.80 (s, 3H, OCH3), 3.78-3.61 (m, 3H), 3.18-3.11 (m, 2H), 2.86-2.81 (m, 1H), 2.58-2.52 (m, 1H), 2.43-2.34 (m, 2H), 1.87-1.59 (m, 8H, cyclopentyl), 0.74 (s, 3H, CH3)

reactant | oxalyl chloride | 9.73 mmol, 4.87 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 19.5 mmol, 1.38 mL | CS(=O)C | C2H6OS
reactant | [1-benzyl-4-(3-cyclopentyloxy-4-methyoxy-phenyl)-3-methylpyrrolidin-3-yl]-methanol | 8.85 mmol, 3.5 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)OC)OC1CCCC1)(C)CO | C25H33NO3
reactant | triethylamine | 44.3 mmol, 6.7 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 1-Benzyl-4-(3-cyclopentyloxy-4-methoxyphenyl)-3-methylpyrrolidine-3-carboxaldehyde | 3.2 g, 92% yield | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)OC)OC1CCCC1)(C=O)C | C25H31NO3
